US07378414B2
2-methoxy-N,N-dimethyl-1-naphthamide
To a solution of 2-methoxynaphthoic acid (268 mg, 1.3 mmol) in dry dichloromethane (5 mL) at 0° C. under a N2 atmosphere was added oxalyl chloride (0.8 mL of a 2M solution in dichloromethane, 1.6 mmol) and 4 drops of N,N-dimethyl formamide. The mixture was stirred at 0° C. for 20 minutes, allowed to warm to room temperature, and stirred for one hour. This solution was added dropwise to a solution of dimethylamine (3.3 mL, 6.5 mmol) and triethylamine (0.92 mL, 6.5 mmol) in tetrahydrofuran (20 mL) and H2O (2 mL), and stirring was continued at room temperature under a N2 atmosphere for 16 hours. The mixture was concentrated in vacuo and the product was purified by column chromatography using 20% ethyl acetate in hexane. The title compound was obtained as a colorless oil (385 mg, 92%). 1H NMR (300 MHz, CDCl3): δ 7.85 (d, 1 H), 7.78 (d, 1 H), 7.61 (d, 1 H), 7.47 (t, 1 H), 7.36 (t, 1 H), 7.30 (d, 1 H), 3.96 (s, 3 H), 3.27 (s, 3 H), 2.81 (s, 3 H). MS (ESI) m/z=230 [M+H].

reactant | 2-methoxynaphthoic acid | 1.3 mmol, 268 mg | COC1=C(C2=CC=CC=C2C=C1)C(=O)O | C12H10O3
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylamine | 6.5 mmol, 3.3 mL | CNC | C2H7N
reactant | triethylamine | 6.5 mmol, 0.92 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
catalyst | N,N-dimethyl formamide | 4 drops | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | H2O | 2 mL | O | H2O
product | 2-methoxy-N,N-dimethyl-1-naphthamide | COC1=C(C2=CC=CC=C2C=C1)C(=O)N(C)C | C14H15NO2
